US05753664
5-Methyl-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one
A solution of methylhydrazine (4.84 g) and 3-ethoxycarbonyl-2-formylpyrrole (3.34 g) in ethanol (30 ml) was refluxed for 2 hours. After cooling to room temperature, concentrated sulfuric acid (0.7 ml) was added and the mixture was further refluxed for 19 hours. The reaction was stopped by adding water and the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developer; dichloromethane: methanol=19:1) to provide the title compound as white powder (1.81 g; yield 61%). 1 H-NMR (DMSO-d6) δ: 3.68(3H,s), 6.65(1H,d,J=2.8Hz), 7.42(1H,t,J=2.8Hz), 8.17(1H,s), 12.02(1H,m).

reactant | methylhydrazine | 4.84 g | CNN | CH6N2
reactant | 3-ethoxycarbonyl-2-formylpyrrole | 3.34 g | C(C)OC(=O)C1=C(NC=C1)C=O | C8H9NO3
reactant | sulfuric acid | 0.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-Methyl-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one | 1.81 g, yield 61% | CN1N=CC2=C(C1=O)C=CN2 | C7H7N3O
